US07094908B2
Allyl 3-tetrahydropyrrolyl-2-butenoate was prepared (4.7 g, 68%) in the same manner as described in the above Example 1 (1) from allyl acetoacetate (5.0 g, 35.17 mmol) and pyrrolidine (8.8 mL, 105.51 mmol), and the obtained product was identified with the following 1H NMR data.

reactant | allyl acetoacetate | 35.17 mmol, 5.0 g | C(CC(=O)C)(=O)OCC=C | C7H10O3
reactant | pyrrolidine | 105.51 mmol, 8.8 mL | N1CCCC1 | C4H9N
product | Allyl 3-tetrahydropyrrolyl-2-butenoate | N1C(CCC1)C(=CC(=O)OCC=C)C | C11H17NO2
